US06953790B2
Step A. 2-[(2,4-Dimethoxybenzyl)amino]nicotinonitrile
2,4-Dimethoxybenzylamine (2.90 g, 17.3 mmol) and triethylamine (1.75 g, 17.3 mmol) were added sequentially to a solution of 2-chloronicotinonitrile (2.0 g, 14.4 mmol) in N,N-dimethylacetamide (29 mL). The reaction was heated at 80° C. for 4 h, quenched with water and extracted with diethyl ether (3×). The combined organic extracts were washed water, saturated brine, dried over magnesium sulfate and concentrated. The crude product was purified by flash chromatography (silica gel, 0-5% ethyl acetate (with 0.1 triethylamine) in dichloromethane gradient elution) to produce the title compound (2.80 g). MS 270.3 (M+1).

reactant | 2,4-Dimethoxybenzylamine | 17.3 mmol, 2.90 g | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
reactant | triethylamine | 17.3 mmol, 1.75 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloronicotinonitrile | 14.4 mmol, 2.0 g | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
solvent | N,N-dimethylacetamide | 29 mL | CN(C(C)=O)C | C4H9NO
product | 2-[(2,4-Dimethoxybenzyl)amino]nicotinonitrile | 2.80 g | COC1=C(CNC2=C(C#N)C=CC=N2)C=CC(=C1)OC | C15H15N3O2
